US08461346B2
To 2.0 g (12.6 mmol) 5-amino-2-methylquinolin and 2.2 g (12.6 mmol) 3,5-difluoro-2-methoxybenzaldehyde in 38 ml toluene are added 0.1 ml acetic acid and 5 g molecular sieve. The mixture is heated over 5 hours under reflux and filtrated through a path of cellites after cooling. The solvent is evaporated and the residue is two times azeotrophed with small portions of toluene. 3.43 g of [(3,5-difluoro-2-methoxyphenyl)methylene]-2-methylquinolin-5-amine are obtained as a yellow solid. 1.93 ml (22.3 mmol) 1,1,1-trifluoroepoxypropane in 40 ml THF and 10 ml hexane are cooled to −100° C. and 14 ml of a 1.6 M n-butyl lithium solution in hexane are added over 2 hours while the temperature does not exceed −96° C. 10 Minutes after complete addition 3.44 g (11.2 mmol) [(3,5-difluoro-2-methoxyphenyl)methylene]-2-methylquinolin-5-amine in 50 ml THF are added over 1.5 hours while the temperature temperature does not exceed −95° C. After one hour at −100° C. the reaction mixture is warmed to 0° C. over two hours. The reaction was quenched by addition of saturated ammonium chloride solution. The phases were separated and the aqueous layer was extracted twice with diethyl ether, the combined organic phases washed with brine, dried over sodium sulphate and then evaporated. Flash chromatography on silica gel (isopropanol in hexane 5% to 20%) yields 1.68 g of the desired epoxide.

reactant | 5-amino-2-methylquinolin | 12.6 mmol, 2.0 g | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
reactant | 3,5-difluoro-2-methoxybenzaldehyde | 12.6 mmol, 2.2 g | FC=1C(=C(C=O)C=C(C1)F)OC | C8H6F2O2
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 38 ml | C1(=CC=CC=C1)C | C7H8
product | [(3,5-difluoro-2-methoxyphenyl)methylene]-2-methylquinolin-5-amine | 3.43 g | FC=1C(=C(C=C(C1)F)C=NC=1C=2C=CC(=NC2C=CC1)C)OC | C18H14F2N2O
